US06855722B2
b) 3-Ethoxy-5-triethoxyprop-1-ynyl-pyridine
The title compound was synthesized from 3-bromo-5-ethoxy-pyridine and 3,3,3-triethoxypropyne using the procedure described in Example 43, step (e), in 37% yield. 1H NMR (CDCl3) δ 8.27 (bs, 1H), 8.24 (bs, 1H), 7.21 (m, 1H), 4.02 (q, 2H, J=7.0 Hz), 3.72 (q, 6H, J=7.0 Hz), 1.39 (t, 3H, J=7.0 Hz), 1.23 (t, 9H, J=7.0 Hz).

reactant | 3-bromo-5-ethoxy-pyridine | BrC=1C=NC=C(C1)OCC | C7H8BrNO
reactant | 3,3,3-triethoxypropyne | C(C)OC(C#C)(OCC)OCC | C9H16O3
product | 3-Ethoxy-5-triethoxyprop-1-ynyl-pyridine | 37% yield | C(C)OC=1C=NC=C(C1)C#CC(OCC)(OCC)OCC | C16H23NO4
